US07504401B2
To a solution of (3-benzoxazol-2-yl-5-bromo-phenyl)-carbamic acid benzyl ester (0.160 g, 0.38 mmol) in chloroform (5.0 mL) at room temperature was added BF3-Et2O (0.21 g, 1.5 mmol) and dimethylsulfide (0.24 g, 3.78 mmol). The reaction mixture was stirred at room temperature for 20 hours. The solvent was removed and residue was purified by preparative TLC eluting with 3:1/hexanes:ethyl acetate to give 3-benzoxazol-2-yl-5-bromo-phenylamine (0.10 g, 92%) as a yellow solid.

reactant | (3-benzoxazol-2-yl-5-bromo-phenyl)-carbamic acid benzyl ester | 0.38 mmol, 0.160 g | C(C1=CC=CC=C1)OC(NC1=CC(=CC(=C1)Br)C=1OC2=C(N1)C=CC=C2)=O | C21H15BrN2O3
reactant | BF3 Et2O | 1.5 mmol, 0.21 g | B(F)(F)F.CCOCC
reactant | dimethylsulfide | 3.78 mmol, 0.24 g | CSC | C2H6S
solvent | chloroform | 5.0 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-benzoxazol-2-yl-5-bromo-phenylamine | 0.10 g, 92% | O1C(=NC2=C1C=CC=C2)C=2C=C(C=C(C2)Br)N | C13H9BrN2O
